US09388197B2
A.2.6.2. Synthesis of 2,4-dichloro-6-methoxymethylbenzylamine
A soln. of BH3 (3.5 mL, 1M in THF) was added to a solution of 2,4-dichloro-6-(methoxymethyl)benzonitrile (0.88 mmol) in 3 mL THF. The reaction mixture was heated to 60° C. for 2 h. At 0° C., 3.5 mL MeOH was dropwise added and the mixture was stirred until gaz evolution was finished. An aq. soln. of 10% NaOH was added still under cooling. The solvent was removed under vacuo, the residue was diluted with water and extracted 3 times with EtOAc. The comb. org. layers were dried over MgSO4 and conc. in vacuo to give the desired product as orange oil.

reactant | 2,4-dichloro-6-(methoxymethyl)benzonitrile | 0.88 mmol | ClC1=C(C#N)C(=CC(=C1)Cl)COC | C9H7Cl2NO
reactant | MeOH | 3.5 mL | CO | CH4O
reactant | NaOH | [OH-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 2,4-dichloro-6-methoxymethylbenzylamine | ClC1=C(CN)C(=CC(=C1)Cl)COC | C9H11Cl2NO
